US07320975B2
a) 4,6-Dihydroxy-5-(2,4,6-trifluorophenyl)-2-(2-pyridyl)pyrimidine
332 g (1.16 mol) of diethyl 2-(2,4,6-trifluorophenyl)malonate and 192 g (1.04 mol) of tributylamine were heated at 180° C. for eight hours together with 182 g (1.17 mol) of pyridine-2-carboxamidine. In the course of this, the ethanol produced was distilled off. The reaction mixture was then allowed to cool to 60-70° C. and was mixed with a solution of 116 g (2.89 mol) of sodium hydroxide in 1200 ml of water. After stirring for 30 min and cooling to approximately 20-25° C., the mixture was extracted with methyl tert-butyl ether (MTBE) and, after phase separation, the aqueous phase was acidified with 6N hydrochloric acid. After filtering off and drying, 180 g of the title compound were obtained.

reactant | diethyl 2-(2,4,6-trifluorophenyl)malonate | 1.16 mol, 332 g | FC1=C(C(=CC(=C1)F)F)C(C(=O)OCC)C(=O)OCC | C13H13F3O4
reactant | tributylamine | 1.04 mol, 192 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | pyridine-2-carboxamidine | 1.17 mol, 182 g | N1=C(C=CC=C1)C(=N)N | C6H7N3
reactant | sodium hydroxide | 2.89 mol, 116 g | [OH-].[Na+]
solvent | water | 1200 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4,6-Dihydroxy-5-(2,4,6-trifluorophenyl)-2-(2-pyridyl)pyrimidine | 180 g | OC1=NC(=NC(=C1C1=C(C=C(C=C1F)F)F)O)C1=NC=CC=C1 | C15H8F3N3O2
